US07259175B2
{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3-methyl-phenoxy}-acetic acid
{4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3-methyl-phenoxy}-acetic acid ethyl ester To a mixture of {3-Bromo-4-[4-ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenoxy}-acetic acid ethyl ester (100 mg, 0.18 mmol), methyl boronic acid (33 mg, 0.54 mmol) and cesium fluoride (90 mg, 0.54 mmol) in dioxane (2 mL) is added [1,1′]-(bisdiphenylphosphino)ferrocene]-dichloridepalladium (II) complex with methylene chloride (1:1, 29 mg) under nitrogen. The mixture is heated to 80° C. for 18 hrs, cooled to room temperature, loaded on silica gel column. Chromatography gave the title compound (80 mg).

reactant | {4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=CC(=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CC)C)=O | C24H24F3NO4S
reactant | {3-Bromo-4-[4-ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenoxy}-acetic acid ethyl ester | 0.18 mmol, 100 mg | C(C)OC(COC1=CC(=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CC)Br)=O | C23H21BrF3NO4S
reactant | methyl boronic acid | 0.54 mmol, 33 mg | CB(O)O | CH5BO2
reactant | cesium fluoride | 0.54 mmol, 90 mg | [F-].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 29 mg | C(Cl)Cl | CH2Cl2
product | {4-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-3-methyl-phenoxy}-acetic acid | 80 mg | C(C)C=1N=C(SC1COC1=C(C=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C22H20F3NO4S
